US04760086
A solution of 0.33 ml (0.975 g, 4.2 mmol) chloroacetyl chloride in 10 ml THF was cooled to 0° C. To this was added a solution of 0.8 g (3.98 mmol) 2-amino-1,1-diphenylpropanol and 0.6 ml (0.436 g, 4.31 mmol) triethylamine in 10 ml THF. The resulting solution was stirred at 0° C. for 2 hours before it was filtered and the residue washed with THF. The combined filtrate was concentration and the residue crystallized from ethyl acetate-hexane to afford 0.986 g (78%) of 2-(2-chloroacetylamino)-1,1-diphenylethanol, m.p. 178°-180° C.

reactant | chloroacetyl chloride | 4.2 mmol, 0.33 ml, 0.975 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-amino-1,1-diphenylpropanol | 3.98 mmol, 0.8 g | NC(C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C15H17NO
reactant | triethylamine | 4.31 mmol, 0.6 ml, 0.436 g | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(2-chloroacetylamino)-1,1-diphenylethanol | 0.986 g, 78% | ClCC(=O)NCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16ClNO2
